US07956040B2
Drug-free human blood obtained from healthy volunteers was coagulated with acid:citrate:dextrose. Platelet-rich plasma was centrifuged at 800×g for 20 min at room temperature and the pellet was suspended in a volume equal to half the initial volume of autologous plasma, low in platelets. The platelet suspensions were incubated for 1 h at 37° C. with 3 μmol of Fura 2/AM per L, 40 μmol DCFH-DA/L, 7.4 GBq (2 Ci) 32Pi/L, or 3.7 MBq (1 mCi) [3H]oleic acid/L. The platelets were washed by exclusion chromatography on Sepharose 2B using a Ca2+-free Tyrodes buffer (134 mmol NaCl/L, 2.9 mmol KCl/L, 0.34 mmol Na2HPO4/L and 2 mmol MgCl2/L) containing 0.2% of bovine serum albumin, 5 mmol glucose/L and 10 mmol HEPES/L, pH 7.35. The platelets that had been submitted to exclusion chromatography (PSEC) were adjusted to a final concentration of 2×1011 cells/L. Since the addition of methanol to the suspensions of PSEC at concentrations<0.5% did not cause any change in the response of the PSEC to collagen, this ratio was used for obtaining final concentrations of quercetin that varied between 5 and 20 μmol/L. Catechin and quercetin were added to the suspensions of PSEC while stirring continuously for 30 min at 37° C. and then removed by centrifugation at 800×g for 20 min at room temperature.

reactant | citrate | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
reactant | dextrose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | Fura 2/AM | 3 μmol | CC1=CC(=C(C=C1)N(CC(=O)OCOC(=O)C)CC(=O)OCOC(=O)C)OCCOC2=C(C=C3C(=C2)C=C(O3)C4=NC=C(O4)C(=O)OCOC(=O)C)N(CC(=O)OCOC(=O)C)CC(=O)OCOC(=O)C | C44H47N3O24
reactant | DCFH-DA | 40 μmol | CC(=O)OC1=C(C=C2C(=C1)OC3=CC(=C(C=C3C24C5=CC=CC=C5C(=O)O4)Cl)OC(=O)C)Cl | C24H14Cl2O7
reactant | NaCl | 134 mmol | [Na+].[Cl-]
reactant | KCl | 2.9 mmol | [Cl-].[K+]
reactant | MgCl2 | 2 mmol | [Mg+2].[Cl-].[Cl-]
reactant | glucose | 5 mmol | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | HEPES | 10 mmol | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
solvent | methanol | CO | CH4O
product | quercetin | C1=CC(=C(C=C1C2=C(C(=O)C=3C(=CC(=CC3O2)O)O)O)O)O | C15H10O7
